Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
clarithromycin / digoxin / amiodarone
 
Attending: ___.
 
Chief Complaint:
SOB
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ female with known Coronary Artery Disease, Severe 
Mitral Regurgitation and ___ transferred from ___ 
after presenting with shortness of breath.  
 She describes an episode of left posterior shoulder pain 
earlier today, burning and stabbing in nature with one episode 
of vomiting and associated shortness of breath. The pain 
resolved without intervention within ___ minutes and occurred 
while she was walking to the bathroom. She has had this 
sensation in the past and reports this was not the first 
episode.  
 Her cardiac/pulmonary issues essentially began in ___, when 
she had symptoms of dyspnea on exertion and was admitted to 
___ for cardiac cath, and was found to have severe mitral 
regurgitation and a total occlusion of the RCA. She was 
subsequently evaluated by cardiac surgery for possible CABG/MVR 
surgery, however they did not proceed with surgery at that time. 
 
 On ___ she presented to ___ with respiratory 
distress, decompensated CHF, and had a PEA arrest for  which she 
had CPR performed, was intubated, and resuscitated in   the ICU. 
Echo at OSH showed EF 20% with severe MR. ___ was   transferred 
on ___, discharged ___ and has since been followed by 
cardiac surgery.   Her surgery was further delayed due to 
findings during pre-operative testing including severe 
lymphadenopathy on CT chest and a left renal mass. These 
findings needed to be further investigated prior to moving 
forward with cardiac surgery.  
 She presented to ___ with acute shortness of 
breath, and the episode of shoulder pain as described. Workup 
revealed negative Trop, BNP 32,000.  

 
Past Medical History:
1. CARDIAC RISK FACTORS: +hypertension, +dyslipidemia, 
2. CARDIAC HISTORY:
Severe Mitral Regurgitation
Atrial fibrillation
Systolic/diastolic CHF (LVEF 20%)
Cardiomyopathy 
CAD 
- CABG: None
- PERCUTANEOUS CORONARY INTERVENTIONS: None
- PACING/ICD: Pacemaker ___ 

3. OTHER PAST MEDICAL HISTORY:
Hypothyrodism
Chronic neck pain
Severe sleep disturbance
Chronic Kidney Disease stage V
Colon cancer s/p right colectomy ___, no other treatment
GI bleed ___ years ago while on Coumadin/plavix- s/p transfusion
___ units
PVD s/p lower extremity stents ___ years ago bilaterally
Gout

4. OTHER PAST SURGICAL HISTORY:
Right colectomy ___
Left tear duct surgery

 
Social History:
___
Family History:
Mother with cardiac history. 
 
Physical Exam:
On Admission:
-Admission weight: 50.8 kg  
 
 PHYSICAL EXAM: VS - 97.6, 108/60, 96, 18, 95% RA  
 Gen: Alert, no acute distress, well appearing  
 Neuro: Oriented x 3, no focal deficits  
 Neck/JVD: + JVD  
 CV: Irregular, tachycardic  
 Chest: Lungs clear and equal bilaterally, no wheezing, rales or 
rhonchi  
 ABD: Soft, non-tender, non-distended, +BS  
 Extr: No lower extremity edema. ___ pulses palpable 
bilaterally, extremities warm and well perfused.  
 Skin: Warm/dry/intact, no rashes or lesions noted  
- ON DISCHARGE
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
VS: ___ 22 98% RA
Lungs: CTAB
Heart: S1S2 irregular
Abd: Soft, non-tender, BS +
PV: Radial pulses: 2+ b/l. ___: 2+ b/l. No edema
Neuro: Alert and oriented, no focal deficits or asymmetries 
noted
 

 
Pertinent Results:
___ 06:40AM BLOOD ___
___ 09:11AM BLOOD WBC-10.2*# RBC-3.95 Hgb-10.7* Hct-34.7 
MCV-88 MCH-27.1 MCHC-30.8* RDW-16.1* RDWSD-51.1* Plt ___
___ 06:40AM BLOOD UreaN-62* Creat-2.0* Na-138 K-3.8 Cl-95* 
HCO3-28 AnGap-19
___ 06:41AM BLOOD cTropnT-<0.01
___ 06:41AM BLOOD Calcium-9.5 Phos-4.3 Mg-1.9
 
Brief Hospital Course:
Ms. ___ is a ___ female with known Coronary Artery 
Disease, Severe Mitral Regurgitation and ___ transferred from 
___ after presenting with shortness of breath. Her 
trops were negative. She was treated with IV Lasix and continued 
on her other home medications. Her INR was subtherapuetic and 
she was started on a heparin gtt. After 24 hrs, she was 
euvolemic, and was transitioned to her home dose of torsemide. 
Her labs were monitored daily, and her renal function remained 
stable at her baseline with a creat of 2.0. Her INR on the day 
of discharge was 1.9. She has follow up in place with her PCP on 
___. She is also awaiting a call from Dr. ___ 
___ for a return date for her cardiac surgery and MVR. Dr. 
___ is in the process of reviewing her records. The pt was 
discharged in stable condition
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 100 mg PO BID 
2. Docusate Sodium 100 mg PO BID 
3. Polyethylene Glycol 17 g PO DAILY 
4. Warfarin 4 mg PO DAILY16 
5. HydrALAZINE 25 mg PO Q8H 
6. Atorvastatin 40 mg PO QPM 
7. Torsemide 40 mg PO DAILY 
8. Isosorbide Dinitrate 30 mg PO BID 
9. Aspirin 81 mg PO DAILY 
10. Levothyroxine Sodium 50 mcg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Docusate Sodium 100 mg PO BID 
4. HydrALAZINE 25 mg PO Q8H 
5. Isosorbide Dinitrate 30 mg PO BID 
6. Levothyroxine Sodium 50 mcg PO DAILY 
7. Metoprolol Succinate XL 100 mg PO BID 
8. Torsemide 40 mg PO DAILY 
9. Warfarin 4 mg PO DAILY16 
10. LORazepam 0.5 mg PO BID PRN anxiety 
11. Polyethylene Glycol 17 g PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
 Systolic and diastolic heart failure  
 Coronary artery disease: CTO of RCA 
 Atrial Fibrillation  
 Severe Mitral Regurgitation  

 
Discharge Condition:
A ___ year-old female with a history of systolic and diastolic 
heart failure, severe mitral regurgitation, atrial fibrillation, 
CAD and CKD who was transferred from ___ on ___ 
after presenting to ___ with shortness of breath.  She 
was diuresed with IV Lasix, and is now stable on her home 
diuretic

 # Coronary Artery Disease: Known RCA occlusion, denies chest 
pain. Negative troponin at OSH on ___  
 - Awaiting CABG by Dr. ___. Office will be in contact with 
the patient next week to schedule surgery. Patient had a workup 
for of a renal mass/pulm lymphadenopathy as an outpatient and 
the results were faxed to Dr. ___ yesterday.  
 - Continue Aspirin, Hydralazine, Metoprolol, Atorvastatin and 
Imdur  
 
 # Mitral Regurgitation, Severe: Followed by CSURG/awaiting MVR  

 - Continue diuretic  
 - daily Weight
 
 # Systolic and diastolic heart failure: BNP at ___ 
was ___. Diuresed with IV Lasix   
 - Continue Torsemide 40mg daily    
  
 # Atrial Fibrillation: chronic, currently in AFib. INR 1.9
 - Continue home  Coumadin dosing
 - INR on ___
 
 # Chronic Kidney Disease: Stage IV, GFR 23. Cr 2.0 today, 
stable over the last several days 
 - Continue to monitor  
 - Avoid nephrotoxic medications  

 # Hypertension: stable on current regimen  
 - Continue Hydralazine, Isordil and Toprol 
 
 # Peripheral Vascular Disease: LLE, stented in ___  
 - Stable  

 # Hyperlipidemia: FLP unknown  
 - Continue Atorvastatin  

 # Hypothyroidism: TSH 4.1  
 - Stable  
 #. Disp
-DC home

Physical Exam:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
VS: ___ 22 98% RA
Lungs: CTAB
Heart: S1S2 irregular
Abd: Soft, non-tender, BS +
PV: Radial pulses: 2+ b/l. ___: 2+ b/l. No edema
Neuro: Alert and oriented, no focal deficits or asymmetries 
noted

 
Discharge Instructions:
You were admitted to the hospital for further evaluation of your 
shortness of breath.  You were found to be fluid overloaded, 
this was treated with IV Lasix.  This volume overload is related 
to your mitral valve.  Dr. ___ will be in contact 
with you next week to schedule your valve and bypass surgery.  
Continue all of your current medications. 
Your INR today was 1.9 please have your INR checked on ___, 
___
-Please continue to weigh yourself every morning, and call your 
Dr. ___  weight goes up more than 3 lbs in ___ days or 5 lbs 
in 5 days. Your weight on discharge was 110 lbs.
 
Followup Instructions:
___